US06635638B2
B. 2-Chloro-5-(2-pyridinyl)pyrimidine
A mixture of 1-methyl-5-(2-pyridinyl)-2(1H)pyrimidone (8.994 g, 0.048 mole), phosphorus pentachloride (2.156 g, 0.0104 mole), and phosphorus oxychloride (24 mL) was refluxed at 120° C. for 8 h. POCl3 was distilled out under reduced pressure. The residue was cooled to room temperature and ice-water was added. The mixture was extracted with EtOAc, the organic layer was washed with 15% NaCl solution, brine and dried over MgSO4. Solvent was distilled out under reduced pressure to yield a solid. The water layer was adjusted to pH 6-7 by using saturated Na2CO3, then extracted with EtOAc. The organic layer was washed with 15% NaCl, brine, dried over MgSO4. Solvent was distilled out under reduced pressure to give a solid. After trituration with MeOH, additional product was obtained.

reactant | 1-methyl-5-(2-pyridinyl)-2(1H)pyrimidone | 0.048 mole, 8.994 g | CN1C(N=CC(=C1)C1=NC=CC=C1)=O | C10H9N3O
reactant | phosphorus pentachloride | 0.0104 mole, 2.156 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | phosphorus oxychloride | 24 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | MeOH | CO | CH4O
solvent | water | O | H2O
product | 2-Chloro-5-(2-pyridinyl)pyrimidine | ClC1=NC=C(C=N1)C1=NC=CC=C1 | C9H6ClN3
